US06632940B1
a) Preparation of 1,2,3,4,6-penta-O-benzoyl-D-glucopyranose
100 g of D-glucose (555 mmol; 1 eq) are dissolved in 2 l of pyridine and the reaction medium is heated under reflux for 1 hour before 387 ml (3,330 mmol; 6 eq) of benzoyl chloride are added thereto in the hot. After addition, the medium is diluted with water, the product precipitates and is filtered off and rinsed with water to neutrality. After drying, it is purified by recrystallisation from ethyl acetate.

reactant | D-glucose | 555 mmol, 100 g, 1 eq | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | benzoyl chloride | 3,330 mmol, 387 ml, 6 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 2 l | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1,2,3,4,6-penta-O-benzoyl-D-glucopyranose | C(C1=CC=CC=C1)(=O)OC1[C@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C41H32O11
